US04276417
10.4 g. of 7-amino-5-diallylamino-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-2-one are suspended in 300 ml. of methylene chloride and 12 ml. of triethylamine, cooled while stirring to 0° C. and treated with 10 g. of benzoic acid anhydride and 1.1 g. of 4-dimethylaminopryidine. The mixture is subsequently stirred at 0° C. for 45 minutes and then washed with water. The organic phase is dried over magnesium sulfate and concentrated. The crude product is recrystallized from methylene chloride and diethyl ether, there being obtained pure N-{5-diallylamino-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-7-yl}benzamide having a melting point of 182°-183° C.

reactant | 7-amino-5-diallylamino-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-2-one | NC1=NC(=NC=2N1OC(N2)=O)N(CC=C)CC=C | C10H12N6O2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | benzoic acid anhydride | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
catalyst | 4-dimethylaminopryidine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-{5-diallylamino-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-7-yl}benzamide | C(C=C)N(C1=NC=2N(C(=N1)NC(C1=CC=CC=C1)=O)OC(N2)=O)CC=C | C17H16N6O3
